US07425551B2
N—[(S)-5-(2-Benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2-hydroxy-2-methyl-N′-(3,3,3-trifluoro-propyl)-malonamide
Using (S)-7-amino-5-(2-benzyloxy-ethyl)-5H,7H-dibenzo[b,d]azepin-6-one and 2-hydroxy-2-methyl-N-(3,3,3-trifluoro-propyl)-malonamic acid, the title compound was prepared in the same manner as described for example 1c. Colorless, viscous oil (73%). MS: m/e=570(M+H+).

reactant | (S)-7-amino-5-(2-benzyloxy-ethyl)-5H,7H-dibenzo[b,d]azepin-6-one | N[C@H]1C2=C(C3=C(N(C1=O)CCOCC1=CC=CC=C1)C=CC=C3)C=CC=C2 | C23H22N2O2
reactant | 2-hydroxy-2-methyl-N-(3,3,3-trifluoro-propyl)-malonamic acid | OC(C(=O)O)(C(=O)NCCC(F)(F)F)C | C7H10F3NO4
product | N—[(S)-5-(2-Benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2-hydroxy-2-methyl-N′-(3,3,3-trifluoro-propyl)-malonamide | C(C1=CC=CC=C1)OCCN1C2=C(C3=C([C@@H](C1=O)NC(C(C(=O)NCCC(F)(F)F)(C)O)=O)C=CC=C3)C=CC=C2 | C30H30F3N3O5
